US08026261B2
3-Benzyloxy-1,2-dimethyl-5-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one (0.97 g, 2.96 mmol) in methanol (30 mL) was debenzylated with Pd/C (10 wt. %, dry basis, on activated carbon, wet, Degussa type E101 NE/W, 0.15 g) as catalyst under a hydrogen atmosphere at 50 psi pressure. The reaction was completed in 10 min. The reaction mixture was diluted with methanol (30 mL), sonicated for 10 min. A CELITE™ bed was prepared on a sintered glass, and washed with 6M HCl (100 mL), followed by water (7×50 mL) and then methanol (2×50 mL) under suction. The reaction mixture was filtered through the pre-treated CELITE™ bed. The filtrate was collected and concentrated in vacuo to give 3-hydroxy-1,2-dimethyl-5-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one as a solid product (0.43 g, 61% yield, HPLC Method 1 (Example 24), RT=9.4 min, HPLC purity (peak percent area): 99.8% at λ=280 nm). 1H NMR (DMSO-d6) δ ppm: 7.72 (s, 1H), 5.34 (q, J=7.3 Hz, 1H), 3.71 (s, 3H), 2.27 (s, 3H); MS (m/z) 238.1 [M+1]+, 220.2 (100%), 192.3, 172.1.

reactant | 3-Benzyloxy-1,2-dimethyl-5-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | 2.96 mmol, 0.97 g | C(C1=CC=CC=C1)OC1=C(N(C=C(C1=O)C(C(F)(F)F)O)C)C | C16H16F3NO3
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 0.15 g | [Pd] | Pd
solvent | methanol | 30 mL | CO | CH4O
product | 3-hydroxy-1,2-dimethyl-5-(2,2,2-trifluoro-1-hydroxy-ethyl)-1H-pyridin-4-one | 61% yield | OC1=C(N(C=C(C1=O)C(C(F)(F)F)O)C)C | C9H10F3NO3
